Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dilantin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Rash, fever.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ man with a history of seizure 
disorder, presenting with rash and fever.

  His first seizure occurred about ___ years ago, when he and 
his family were living in ___. During his sleep he began to 
crawl around his bed. This happened twice more this year. His 
girlfriend had witnessed at least one occasion where he crawled 
around, was 'foaming at the mouth' and vomited. Sheh lay him on 
his side and it passed quickly. He does not recollect this, but 
was not confused afterward. He did not lose control of his 
bladder or bowel or injure himself. The latter of these events 
this year led him to the ___ Emergency Department, 
where he was given Dilantin and later carbemazepine. He does not 
think that he saw a Neurologist at the hospital. 

  One month laterm after four weeks of Dilantin, he developed a 
full body rash and intense puritis. He also states that he took 
carbemazepine once (i.e. one tablet). He was seen at ___ 
___ and started on atarax, oral prednisone, and an H2 
blocker, with some mild improvement. Dilantin was stopped at 
that time with his initial reaction. Since his first 
presenation, he waxed and waned in terms of his rash, itchiness 
and fatigue. Three days ago, he had acute worsening of his 
symptoms. He had body aches, headache, neck stiffness, fevers 
and rigors. His rash darkened and covered his whole body. His 
itching worsened and his feet started to swell and hurt to the 
point where he had trouble walking. He had swelling in face, 
mild lip swelling, but no tongue swelling or funny feeling in 
his mouth. Of note, he finished course of prednisone yesterday. 
At ___, presenting again, he had 30% bandemia and 
LFTs were elevated. He was transferred here for further 
management, with concern for ___ sydnrome. 

  In the ED, initial vs were T100.4, ___, bp120/74, r16, 100% 
on RA. Patient has two witnessed febrile episodes with rigors, 
first to T 104, then T 103.3. He was given 2L IVFs. He related 
the above and denied shortness of breath, wheezing, chest pain, 
dizziness, fainting, dysuria, blood in his stools or weight 
changes. He doesn't have a hx of liver disease per him. He had 
never been treated for seizures before. He had a seizure several 
years ago in ___, does not know what kind or what happens. 
He then had another one last year, and that is why dilantin was 
started.  

  In the ICU, ee had mild RUQ tenderness and had an abdominal 
ultrasound that was normal. Derm was consulted and did a biopsy. 
He was given vanco 1 gm and levo 750 mg and flagyl 500 mg for 
possible infection. He received 50 mg IV solumedrol per derm 
recommendations. He received ibuprofen for a headache.  He 
stayed in the ICU overnight, his rash began to improve and he 
was transferred to the floor.  
 
  On the floor, he was feeling itchy but otherwise well. He 
feels better than when he arrived. His headache has resolved. No 
pain at this time. His feet are the most itchy and feel slightly 
swollen. 
 
Past Medical History:
Seizure Disorder, see below for discussion. He does not know the 
type of seizure. 
 
Social History:
___
Family History:
No history of SJS or other skin disease. No family history of 
seizure disorder, parasomnias, ___ disease, other 
neurologic illness.  
 
Physical Exam:
From Admission Note:

Vitals above.
 
Biometrics at admission:  
Height: 69 in. ___  
Weight: 58.97 kgs. (130.00 lbs) ___  
BMI: 19.2  

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis 
Skin:  diffuse coalescing erythematous raised rash over all 
extremites, torso face, no area is spared, petechiae on roof of 
mouth, no other MM lesions/ulcers

At the time of discharge from the floor:

T 97.3 (Tm 97.8)  
HR 46 (- 66)  
BP (114/82 -) 133/93  
Respiratory: 18 RR 100 % O2Sat  
Pain ___  

Rash has resolved, almost completely - just some left on inner 
thigh and around waist.  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, raised rash on 
face improved from yesterday  
Neck: Supple, JVP not elevated, LAD mild throughout and tender  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly (this a.m.), 
then pain, mostly medial epigastric after lunch. No 
organomegaly. Some guarding, but no rebound.  
GU: No foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema Skin: Raised macular rash, confluent on inner thigh, 
improved from yesterday.  
Access: PIV  
Catheter: None. 

 
Pertinent Results:
Skin biopsy ___
Interface dermatitis with mild epidermal spongiosis, focal 
erythrocyte extravasation, and superficial to mid dermal 
perivascular lymphohistiocytic inflammation with scattered 
eosinophils (see note).
Note:  The findings are consistent with a hypersensitivity 
reaction such as to drug, and they fit within the spectrum 
reported for DRESS (drug rash with eosinophilia and systemic 
symptoms).  Some atypia is noted within the inflammatory 
infiltrate and is favored to represent the reactive atypia that 
may be seen in lymphocytes in the context of DRESS; slides 
reviewed by Dr. ___ (Hematopathology), who concurs with 
this interpretation.  Apoptotic keratinocytes are infrequent, 
and erythema multiforme is not favored; however, an early or 
evolving erythema multiforme cannot be entirely excluded, and if 
clinical suspicion persists or other concerning features are 
noted clinically, additional sampling may be helpful for further 
diagnostic evaluation.  Case reviewed by Dr. ___. 
___, and discussed with Dr. ___ 
(Dermatology) on ___.

EKG ___
Sinus rhythm. Non-diagnostic inferior and lateral Q waves. Mild 
J point and ST segment elevation, pobably normal early 
repolarization. Since the previous tracing probably no 
significant change. 
Rate PR QRS QT/QTc P QRS T 
86 186 76 348/393 69 48 46 

CXR ___
FINDINGS: Heart size is normal. There is no radiographic 
evidence of  mediastinal or hilar lymphadenopathy, and lungs are 
clear. There is no pleural effusion or concerning skeletal 
findings. 
IMPRESSION: No radiographic evidence of lymphadenopathy. 

Abdominal x-ray
FINDINGS: No evidence of free air, fecal filling of the 
descending colon.  The non-distended gas-filled small bowel 
loops, partly with minimal air fluid levels. Gas in the rectum. 
No pathological calcifications. 

Abdominal US:
ABDOMINAL ULTRASOUND: The liver is normal in echogenicity 
without focal lesions. There is normal hepatopetal flow in the 
portal vein. The gallbladder is collapsed without stones, 
sludge, wall edema, or pericholecystic fluid. There is no intra- 
or extra-hepatic biliary dilatation. The pancreas and spleen are 
normal. The visualized proximal aorta is normal in caliber. 
There is no abdominal ascites. The right kidney measures 10.2 
cm, and the left kidney measures 10.9 cm.  There are no stones, 
masses, or hydronephrosis. 
IMPRESSION: Normal abdominal ultrasound. 

Laboratory Data:
Hematology
___ 05:55AM BLOOD WBC-9.4 RBC-4.50* Hgb-13.4* Hct-38.0* 
MCV-85 MCH-29.7 MCHC-35.1* RDW-12.8 Plt ___
___ 05:55AM BLOOD Neuts-61.3 ___ Monos-2.7 Eos-7.2* 
Baso-1.0
___ 10:10AM BLOOD WBC-9.7 RBC-4.70 Hgb-14.0 Hct-40.4 MCV-86 
MCH-29.8 MCHC-34.7 RDW-12.9 Plt ___
___ 10:10AM BLOOD Neuts-45* Bands-5 Lymphs-17* Monos-4 
Eos-18* Baso-0 Atyps-11* ___ Myelos-0
___ 07:40AM BLOOD WBC-15.8*# RBC-4.27* Hgb-13.0* Hct-38.1* 
MCV-89 MCH-30.4 MCHC-34.0 RDW-13.0 Plt ___
___ 07:40AM BLOOD Neuts-67 Bands-0 ___ Monos-6 Eos-5* 
Baso-0 Atyps-3* ___ Myelos-0
___ 07:45AM BLOOD WBC-15.3* RBC-4.08* Hgb-12.0* Hct-35.6* 
MCV-87 MCH-29.4 MCHC-33.7 RDW-13.3 Plt ___
___ 07:45AM BLOOD Neuts-49* Bands-0 ___ Monos-9 
Eos-15* Baso-0 Atyps-1* ___ Myelos-2* NRBC-1*
___ 06:50AM BLOOD WBC-12.7* RBC-3.67* Hgb-10.9* Hct-32.1* 
MCV-87 MCH-29.6 MCHC-33.9 RDW-13.1 Plt ___
___ 06:50AM BLOOD Neuts-53 Bands-0 ___ Monos-3 
Eos-16* Baso-1 Atyps-5* ___ Myelos-0
___ 07:15AM BLOOD WBC-12.6* RBC-3.76* Hgb-11.5* Hct-33.7* 
MCV-90 MCH-30.6 MCHC-34.1 RDW-13.2 Plt ___
___ 07:15AM BLOOD Neuts-46.1* ___ Monos-6.5 
Eos-15.2* Baso-1.3

Red cell morphology 
___ 10:10AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Schisto-OCCASIONAL Burr-1+
___ 07:40AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 07:45AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-OCCASIONAL Microcy-NORMAL Polychr-NORMAL 
Schisto-OCCASIONAL
___ 06:50AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL

Coagulation
___ 05:55AM BLOOD ___ PTT-33.1 ___
___ 07:15AM BLOOD ___ PTT-23.1 ___

Chemistry
___ 05:55AM BLOOD Glucose-95 UreaN-14 Creat-1.2 Na-133 
K-4.0 Cl-100 HCO3-22 AnGap-15
___ 10:10AM BLOOD Glucose-69* UreaN-13 Creat-1.0 Na-138 
K-4.2 Cl-105 HCO3-21* AnGap-16
___ 07:40AM BLOOD Glucose-85 UreaN-14 Creat-1.0 Na-138 
K-4.8 Cl-104 HCO3-19* AnGap-20
___ 07:45AM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-136 
K-4.4 Cl-103 HCO3-24 AnGap-13
___ 06:50AM BLOOD Glucose-85 UreaN-12 Creat-1.0 Na-140 
K-4.4 Cl-104 HCO3-29 AnGap-11
___ 07:15AM BLOOD Glucose-78 UreaN-13 Creat-0.9 Na-140 
K-3.8 Cl-103 HCO3-30 AnGap-11

Liver Enzymes
___ 05:55AM BLOOD ALT-611* AST-381* AlkPhos-105 TotBili-0.7
___ 10:10AM BLOOD ALT-511* AST-187* LD(LDH)-1282* 
CK(CPK)-136 AlkPhos-115 TotBili-0.7 DirBili-0.2 IndBili-0.5
___ 07:40AM BLOOD ALT-450* AST-152* LD(LDH)-1272* 
CK(CPK)-91 AlkPhos-177* TotBili-1.3 DirBili-0.7* IndBili-0.6
___ 07:45AM BLOOD ALT-459* AST-231* LD(LDH)-942* 
AlkPhos-153* TotBili-0.7
___ 06:50AM BLOOD ALT-428* AST-184* LD(LDH)-725* 
AlkPhos-133* TotBili-0.6
___ 07:15AM BLOOD ALT-375* AST-95* LD(___)-571* AlkPhos-127 
TotBili-0.5
___ 05:55AM BLOOD Lipase-30
___ 10:10AM BLOOD Lipase-29 GGT-486*
___ 07:40AM BLOOD Lipase-30 GGT-609*

Iron, hemolysis and divalents
___ 05:55AM BLOOD Iron-42*
___ 10:10AM BLOOD Calcium-8.8 Phos-2.4* Mg-2.2
___ 07:15AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.9 UricAcd-5.3
___ 05:55AM BLOOD calTIBC-156* Ferritn-GREATER TH TRF-120*
___ 06:50AM BLOOD Hapto-76

Endocrine
___ 05:55AM BLOOD TSH-4.5*
___ 06:06PM BLOOD TSH-3.3
___ 05:55AM BLOOD Free T4-1.5
___ 06:06PM BLOOD Free T4-1.4

Serology
___ 05:55AM BLOOD HBsAg-NEGATIVE HBsAb-BORDERLINE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 06:09PM BLOOD HIV Ab-NEGATIVE
___ 07:40AM BLOOD Phenyto-LESS THAN 
___ 10:10AM BLOOD Phenyto-LESS THAN 
___ 05:55AM BLOOD HCV Ab-NEGATIVE

Lactate
___ 05:59AM BLOOD Lactate-2.0

Additional Serology
Time Taken Not Noted     Log-In Date/Time: ___ 11:59 am
      Blood (EBV)      CHEM# ___. 

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

Time Taken Not Noted     Log-In Date/Time: ___ 12:30 pm
      SEROLOGY/BLOOD      CHEM# ___. 

                            **FINAL REPORT ___
   LYME SEROLOGY (Final ___: 
      NO ANTIBODY TO B. BURG___ DETECTED BY EIA. 
      Reference Range:  No antibody detected. 
      Negative results do not rule out B. burg___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody.  Patients with clinical 
history and/or
      symptoms suggestive of lyme disease should be retested in 
___ weeks. 

___ 6:06 pm SEROLOGY/BLOOD      Source: Venipuncture. 

                            **FINAL REPORT ___
   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

___ 6:09 pm IMMUNOLOGY
                            **FINAL REPORT ___

   HIV-1 Viral Load/Ultrasensitive (Final ___: 
      HIV-1 RNA is not detected. 
      Performed using the Cobas Ampliprep / Cobas Taqman HIV-1 
Test. 
      Detection range: 48 - 10,000,000 copies/ml. 
      This test is approved for monitoring HIV-1 viral load in 
known
      HIV-positive patients. It is not approved for diagnosis of 
acute HIV
      infection. 
      In symptomatic acute HIV infection (acute retroviral 
syndrome), the
      viral load is usually very high (>>1000 copies/mL). If 
acute HIV
      infection is clinically suspected and there is a 
detectable but low
      viral load, please contact the laboratory for 
interpretation. 
      It is recommended that any NEW positive HIV-1 viral load 
result, in
      the absence of positive serology, be confirmed by 
submitting a new
      sample FOR HIV-1 PCR, in addition to serological testing. 

 
Brief Hospital Course:
This ___ year-old boy with likely nocturnal frontal lobe epilepsy 
(see below), followed by phenytoin treatment started at ___ 
ED with subsequent hypersensitivity reaction. 

Rash
  Mr ___ was seen by dermatology and allergy and thought to 
be likely due to hypersensitivity to dilantin.  DRESS is 
fulfilled given eosinophilia, new medication, systemic symptoms. 
Actually very characteristic of phenytoin and carbemazapine 
hypersensitivity. Likely due to former given had been taken for 
near a month and the latter only taken once. Nonetheless, both 
agents should now be avoided. We It is likely that these two 
signs are related, given the onset of each. This is consistent 
with phenytoin hypersensitivity and infectious etiologies. 
Phenytoin hypersensitivities can also cause blood dyscrasias, 
lymphadenopathy, hepatitic liver enzymes, eosinophilia. This is 
quite well described (See abstract below). Phenytoin 
hypersensitivity actually accounts for all manifestations and 
would be the most elegant explanation. Infectious disease can 
also be considered, particularly including EBV, CMV. 
Hematological processes are also possible. Skin biopsy may be of 
assistance. 
  Pathology report from skin biopsy, not finalized, but 
available: "Interface dermatitis with mild epidermal spongiosis, 
focal erythrocyte extravasation, and superficial to mid dermal 
perivascular lymphohistiocytic inflammation with scattered 
eosinophils (see note)."
  He was observed in the MICU for 24 hours.  He was started on 
solumedrol 1 mg/kg per day (50 mg/day, clobetasol ointment to 
body, hydrocortisone to face, aquophor and vaseline to lips.  He 
was given benadryl for the itching and a panel of labs were sent 
including HIV, HepC, EBV, Lyme titers, and a punch biopsy was 
sent by dermatology.  TFTs on ___ were normal. Laboratory 
findings were essentially only consistent with DRESS/Dilantin 
hypersensitivity. He was transferred to the floor where steroids 
were increase to 125 mg IV Solumedrol daily for four days, 
prednisone taper was then commenced at 60 mg with a plan to 
taper by 10 mg every 4 days, then 5mg for four days. He was also 
given famotidine and IV Benadryl on the floor. Rash and other 
symptoms clear quickly. 
   
Fevers
  Had two to three days of fevers in conjunction with the rash, 
however he was afebrile in the MICU for his ___ 24 hours.  Blood 
and urine cultures were sent, CXR was done which was 
unremarkable.  As above, a number of labs were sent to determine 
possible infective causes.  He was consented to HIV which was 
also sent and found to be negative. He returned an equivocal 
result for HBV shell antibody. Equivocal Lyme was found in ___ 
___, but both here were negative. 

Body aches / headache
  Likely related to flu-like syndrome associated with reaction, 
as part of DRESS. Body aches improved over MICU course and with 
ibuprofen as needed. Infectious etiologies effectively excluded. 

  
Elevated LFTs
  No history liver disease or alcohol abuse. Intermediate levels 
consistent with viremia, but excluded on testing. Again part of 
this DRESS. These will need to be followed closely for 
resolution.
  
Anemia
  Unclear etiology, iron studies not consistent necessarily with 
iron deficiency anemia.  In setting of acute illness, his CBCs 
were followed. Hemolysis was possible earlier in his 
presentation. 
  
Abdominal Pain
  Appeared on first day of hospitalisation and was improved by 
steroids. Was not helped by Maalox (initially though likely ___ 
steroids with reflux and gastritis). Given normal KUB and AUS, 
we now think that this likely represented para-aortic and 
retroperitoneal lymphadenopathy, perhaps mesenteric adenopathy. 
This resolved with other features during steroid treatement. He 
was briefly given opioids, but later required no pain 
medications. 

'Seizures'
  Differential includes REM sleep behavior disorder, night 
terrors, restless legs symdrome with periodic limb movements and 
epilepsies - most likely of which is familial nocturnal frontal 
lobe epilepsy. Parasomnias are very unlikely based on family 
history and history of the present illness. The description was 
classic for nocturnal frontal lobe epilepsy. The age of onset 
for NFLE is correct, but this may well be non-familial, or we 
may not understand his pedigree or relatives' history well (also 
not completely penetrant or noticed). REM sleep behavior 
disorder not consistent with history (no narcoleptic symptoms). 
No earlier onset PD. First line is typically carbemazepine, but 
this is now contraindicated. Given the natural history of this 
disorder, treatment may not be necessary (typically resolves 
with aging). He will see Neurology as an outpatient. He was not 
started on treatment.

Related Abstract:

___. Phenytoin Hypersensitivity - 38 Cases. NEUROLOGY 
___.

To determine the frequency and severity of hypersensitivity 
reactions to phenytoin, we reviewed 38 cases of proven 
reactions. Patients were included only if no other drugs, 
including other anticonvulsants, were in use at the time of the 
reaction. Rashes were most frequent, followed by fever, 
lymphadenopathy, eosinophilia, abnormal liver function tests, 
blood dyscrasias, serum sickness, renal failure, and 
polymyositis. The pseudolymphoma syndrome (fever, rash, and 
lymphadenopathy) occurred in nine patients. ___ of the 
38 reactions occurred within 2 months of the start of therapy. 
Phenytoin sensitivity accounted for 467 inpatient days during 
the ___ years of study. Early recognition of phenytoin reactions, 
prompt drug withdrawal, and appropriate therapeutic measures are 
necessary to prevent serious morbidity from phenvtoin 
hypersensitivity. 
 
Medications on Admission:
Prednisone 40 mg daily for 2 weeks  
Famotidine 20 mg BID  
Atarax 25 mg TID PRN  

 
Discharge Medications:
1. Clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day): Do not apply to your face. Only apply to rash.  
2. Petrolatum     Ointment Sig: One (1) Appl Topical TID (3 
times a day) as needed for lip dryness: Apply this to itchy 
skin. .  
3. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) as needed for itching.  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Prenisone. Please take six tablet (60 mg) first the first two 
days after discharge, then reduce by one tablet every four days. 
For the final four days, take one half tablet daily. Please read 
directions on medication container (this also shows dates).
6. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO ONCE 
(Once) for 1 doses.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Drug reaction with eosinophilia and systemic symptoms/signs, 
subtype phenytoin hypersensitivity reaction. 
 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
 
Discharge Instructions:
You came to the hosptial with a rash and fever. This along with 
your history of taking phenytoin (Dilantin) and your laboratory 
abnormalities were characterstic of phenytoin hypersensitivity 
syndrome. You should never take phenytoin or carbemazepine in 
the furture. 
  You were treated with antihistamines and steroids with good 
relief. Dermatology saw you while you were here and helped us 
formulate a management plan. It will be important for you to 
take your medications as directed (see below). 
  Please attend the appointments listed below for dermatology, 
neurology and your new primary care physcian.

 in the hospital due to your rash.  You were initially observed 
in the ICU and treated with steroids and benadryl.  You were 
seen by our dermatology and allergy teams.
 
Followup Instructions:
___